US07435828B2
2-[(Z)-Ethylimino]-3-(2,3-dimethylphenyl)-thiazolidin-4-one is prepared following Method B and starting from 2,3-dimethylaniline, chloroacetyl chloride and ethylisothiocyanate. LC-MS: tR=0.66 min, [M+1]+=249, 1H NMR (CDCl3): δ 7.24-7.19 (m, 2H), 7.00-6.96 (m, 1H), 4.01 (s, 2H), 3.45-3.27 (m, 2H), 2.34 (s, 3H), 2.05 (s, 3H), 1.16 (t, J=7.0 Hz, 3H).

reactant | 2,3-dimethylaniline | CC1=C(N)C=CC=C1C | C8H11N
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | ethylisothiocyanate | C(C)N=C=S | C3H5NS
product | 2-[(Z)-Ethylimino]-3-(2,3-dimethylphenyl)-thiazolidin-4-one | C(C)\N=C\1/SCC(N1C1=C(C(=CC=C1)C)C)=O | C13H16N2OS
